US08222416B2
A solution of 2-(1-(3-fluoro-phenyl)-3-methyl-but-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (2.6 g, 6.2 mmol) in ethanol (8 mL) and tetrahydrofuran (15 mL) was treated with an aqueous sodium hydroxide solution (10%, 20 mL). The reaction was stirred at 80° C. for 16 h. At this time, the reaction mixture was cooled to 25° C. and the resulting precipitate was collected by filtration. The solids were washed with petroleum ether and diethyl ether and then dried under vacuum to afford 2-(1-(3-fluoro-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.2 g, 69%) as a white solid: 1H NMR (300 MHz, CDCl3) δ ppm 10.50 (s, 1H), 7.89 (dd, 1H, J1=4.8 Hz, J2=1.5 Hz), 7.84 (dd, 1H, J1=5.1 Hz, J2=1.5 Hz), 7.27-7.22 (m, 2H), 6.48 (d, 1H, J=2.1 Hz), 6.03 (d, 1H, J=10.5 Hz), 2.96-2.84 (m, 1H), 1.12 (s, 3H), 1.10 (s, 3H).

reactant | 2-(1-(3-fluoro-phenyl)-3-methyl-but-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 6.2 mmol, 2.6 g | FC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1 | C24H21FN2O2S
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(1-(3-fluoro-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 1.2 g, 69% | FC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1 | C18H17FN2
